US04035512
In a mixture of 15 m. acetone and 20 ml. methanol is dissolved 450 mg. of trans-2-amino-6-benzyloxy-5-cyano-1-hydroxy-1,2,3,4-tetrahydronaphthalene hydrochloride and, while nitrogen gas is introduced, 150 mg. of the adduct of lithium cyanoborohydride-dioxane complex is added in small portions at 5°-10° C. After stirring for 2 hours, a saturated aqueous solution of sodium chloride is added and the mixture is extracted with ethyl acetate. The ethyl acetate layers are washed with a saturated aqueous solution of sodium chloride and dried. The solvent is distilled off under reduced pressure and the residue is recrystallized from ethanol-ethyl acetate. The procedure yields white crystals of trans-6-benzyloxy-5-cyano-1-hydroxy-2-isopropylamino-1,2,3,4-tetrahydronaphthalene. This compound is in agreement with the sample according to the prcedure of Example 3. Yield 297 mg.

reactant | acetone | CC(=O)C | C3H6O
reactant | trans-2-amino-6-benzyloxy-5-cyano-1-hydroxy-1,2,3,4-tetrahydronaphthalene hydrochloride | Cl.N[C@H]1[C@@H](C2=CC=C(C(=C2CC1)C#N)OCC1=CC=CC=C1)O
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | CO | CH4O
product | trans-6-benzyloxy-5-cyano-1-hydroxy-2-isopropylamino-1,2,3,4-tetrahydronaphthalene | C(C1=CC=CC=C1)OC=1C(=C2CC[C@H]([C@@H](C2=CC1)O)NC(C)C)C#N | C21H24N2O2
